US08278290B2
a) Preparation of [2-(1-methyl-1H-Imidazol-4-yl)-6-methoxy-benzofuran-3-yl]-(3,4,5-trimethoxyphenyl)-methanone (Entry 39, Table 1)
This material was prepared by N-methylation of [2-(1H-Imidazol-4-yl)-6-methoxy-benzofuran-3-yl]-(3,4,5-trimethoxyphenyl)-methanone (entry 45, Table 1) was made from Il-0085 by N-methylation. 20 mg of starting material (0.049 mmol) was dissolved in 1 ml dry THF then treated with 9 mg of 60% NaH (0.225 mmol) then after 10 minutes with MeI (15 uL, 0.24 mmol) and left over night then quenched with 10% NH4Cl extracted with EtOAc and chromatographed with straight EtOAc to give 12 mg product (58% yield). Proton data is 7.86 (s, 1H), 7.62 (s, 1H), 7.13-7.09 (m, 2H), 7.12 (s, 2H), 6.79 (dd, J=8.7, 2.1 Hz, 1H), 3.92 (s, 3H), 3.84 (s, 3H), 3.76 (s, 6H), 3.72 (s, 3H).

reactant | [2-(1H-Imidazol-4-yl)-6-methoxy-benzofuran-3-yl]-(3,4,5-trimethoxyphenyl)-methanone | N1C=NC(=C1)C=1OC2=C(C1C(=O)C1=CC(=C(C(=C1)OC)OC)OC)C=CC(=C2)OC | C22H20N2O6
reactant | NaH | 0.225 mmol, 9 mg | [H-].[Na+]
reactant | MeI | 0.24 mmol, 15 uL | CI | CH3I
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | [2-(1-methyl-1H-Imidazol-4-yl)-6-methoxy-benzofuran-3-yl]-(3,4,5-trimethoxyphenyl)-methanone | 12 mg, 58% yield | CN1C=NC(=C1)C=1OC2=C(C1C(=O)C1=CC(=C(C(=C1)OC)OC)OC)C=CC(=C2)OC | C23H22N2O6
